US08106086B2
Production of 2,5-dihydro-α-hydroxy-1-(4-isopropylphenyl)-3-methyl-5-oxo-α-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester
To a chloroform solution (5 ml) of 1-(4-isopropylphenyl)-3-methyl-5-pyrazolone (108 mg, 0.5 mmol), methyl trifluoropyruvate (78 mg, 0.5 mmol) was added at room temperature and the mixture was stirred at 80° C. for 2 hours. After removing the solvent under reduced pressure, the title compound was obtained as a pale yellow solid (186 mg).

reactant | 1-(4-isopropylphenyl)-3-methyl-5-pyrazolone | 0.5 mmol, 108 mg | C(C)(C)C1=CC=C(C=C1)N1NC(=CC1=O)C | C13H16N2O
reactant | methyl trifluoropyruvate | 0.5 mmol, 78 mg | FC(C(C(=O)OC)=O)(F)F | C4H3F3O3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,5-dihydro-α-hydroxy-1-(4-isopropylphenyl)-3-methyl-5-oxo-α-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester | COC(C(C1=C(NN(C1=O)C1=CC=C(C=C1)C(C)C)C)(C(F)(F)F)O)=O | C17H19F3N2O4
